US05840732
ii) Synthesis of 5-butylidene-3-[4-(2-phenylimidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione hydrochloride
To a solution of 1.70 g (3.90 mmol) of 5-butylidene-3-[4-(2-phenylimidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione in 20 ml of methanol, 0.4 ml of concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was washed with diethyl ether to yield 1.80 g (97.7%, yellow solid) of the desired product.

reactant | 5-butylidene-3-[4-(2-phenylimidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione | 3.90 mmol, 1.70 g | C(CCC)=C1C(N(C(S1)=O)CCCCOC=1C=2N(C=CC1)C=C(N2)C2=CC=CC=C2)=O | C24H25N3O3S
reactant | hydrochloric acid | 0.4 ml | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | 5-butylidene-3-[4-(2-phenylimidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione hydrochloride | Cl.C(CCC)=C1C(N(C(S1)=O)CCCCOC=1C=2N(C=CC1)C=C(N2)C2=CC=CC=C2)=O | InChI=1S/C24H25N3O3S.ClH/c1-2-3-13-21-23(28)27(24(29)31-21)15-7-8-16-30-20-12-9-14-26-17-19(25-22(20)26)18-10-5-4-6-11-18;/h4-6,9-14,17H,2-3,7-8,15-16H2,1H3;1H
